// Generated for: spectre
// Generated on: May 28 02:01:21 2015
// Design library name: Playground
// Design cell name: spectre_4sims
// Design view name: schematic
simulator lang=spectre
global 0
parameters VSWEEP=1

// Library name: Playground
// Cell name: spectre_4sims
// View name: schematic
R1 (0 VO) resistor r=1K
R0 (VI VO) resistor r=1K
C0 (VO 0) capacitor c=1p
V0 (VI 0) vsource dc=VSWEEP mag=1 type=sine ampl=1 freq=1G
simulatorOptions options reltol=1e-3 vabstol=1e-6 iabstol=1e-12 temp=27 \
    tnom=27 scalem=1.0 scale=1.0 gmin=1e-12 rforce=1 maxnotes=5 maxwarns=5 \
    digits=5 cols=80 pivrel=1e-3 sensfile="../psf/sens.output" \
    checklimitdest=psf 
dcOp dc maxiters=150 maxsteps=10000 annotate=status
dc dc param=VSWEEP start=0 stop=2 step=0.1 oppoint=rawfile maxiters=150 \
    maxsteps=10000 annotate=status
ac ac start=1 stop=1T dec=100 annotate=status 
tran tran stop=10n \
    annotate=status maxiters=5 
saveOptions options save=allpub
