// Generated for: spectre
// Generated on: Apr 13 18:30:53 2015
// Design library name: Playground
// Design cell name: spectre_test1
// Design view name: schematic
simulator lang=spectre
global 0
parameters R=1e3
include "/cad/tsmc/PDK_GP_2011/tsmcN45/../models/spectre/toplevel.scs" section=top_tt

// Library name: Playground
// Cell name: spectre_test1
// View name: schematic
R0 (net1 VO) resistor r= R scale =1
R1 (VO 0) capacitor c=R / 1e6 scale=1
V0 (net1 0) vsource dc=1 mag=1 type=dc
simulatorOptions options reltol=1e-3 vabstol=1e-6 iabstol=1e-12 temp=27 \
    tnom=27 scalem=1.0 scale=1.0 gmin=1e-12 rforce=1 maxnotes=5 maxwarns=5 \
    digits=5 cols=80 pivrel=1e-3 sensfile="../psf/sens.output" \
    checklimitdest=psf 
ac ac start=1 stop=1G dec=100 annotate=status 
dcOp dc write="spectre.dc" maxiters=150 maxsteps=10000 annotate=status
dcOpInfo info what=oppoint where=rawfile
modelParameter info what=models where=rawfile
element info what=inst where=rawfile
outputParameter info what=output where=rawfile
designParamVals info what=parameters where=rawfile
primitives info what=primitives where=rawfile
saveOptions options save=allpub
