// Generated for: spectre
// Generated on: Apr 16 12:55:25 2015
// Design library name: Playground
// Design cell name: spectre_test2
// Design view name: schematic
simulator lang=spectre
global 0
parameters R=1e4
include "/cad/tsmc/PDK_GP_2011/tsmcN45/../models/spectre/toplevel.scs" section=top_tt

// Library name: Playground
// Cell name: spectre_test_RC
// View name: schematic
subckt spectre_test_RC VI VO VSS
parameters _par0=1k C=1p
    R0 (VI VO) resistor r=_par0
    C0 (VO VSS) capacitor c=C
ends spectre_test_RC
// End of subcircuit definition.

// Library name: Playground
// Cell name: spectre_test2
// View name: schematic
I1 (VO1 VO2 0) spectre_test_RC _par0=1k C=1p
I0 (net2 VO1 0) spectre_test_RC _par0=R C=1e-9/R
V0 (net2 0) vsource dc=1 mag=1 type=dc
simulatorOptions options reltol=1e-3 vabstol=1e-6 iabstol=1e-12 temp=27 \
    tnom=27 scalem=1.0 scale=1.0 gmin=1e-12 rforce=1 maxnotes=5 maxwarns=5 \
    digits=5 cols=80 pivrel=1e-3 sensfile="../psf/sens.output" \
    checklimitdest=psf 
ac ac start=1 stop=1G dec=100 annotate=status 
modelParameter info what=models where=rawfile
element info what=inst where=rawfile
outputParameter info what=output where=rawfile
designParamVals info what=parameters where=rawfile
primitives info what=primitives where=rawfile
saveOptions options save=allpub
