// Generated for: spectre
// Generated on: Apr 16 13:14:57 2015
// Design library name: Playground
// Design cell name: spectre_test3
// Design view name: schematic
simulator lang=spectre
global 0
include "/cad/tsmc/PDK_GP_2011/tsmcN45/../models/spectre/toplevel.scs" section=top_tt

// Library name: Playground
// Cell name: spectre_test_RC
// View name: schematic
subckt spectre_test_RC VI VO VSS
parameters R=1k C=1p
    R0 (VI VO) resistor r=R
    C0 (VO VSS) capacitor c=C
ends spectre_test_RC
// End of subcircuit definition.

// Library name: Playground
// Cell name: spectre_test_RCRC
// View name: schematic
subckt spectre_test_RCRC VI VO VSS
parameters R2 C2 R1 C1
    I3 (net7 VO VSS) spectre_test_RC R=R2 C=C2
    I0 (VI net7 VSS) spectre_test_RC R=R1 C=C1
ends spectre_test_RCRC
// End of subcircuit definition.

// Library name: Playground
// Cell name: spectre_test3
// View name: schematic
I0 (VI VO1 0) spectre_test_RC \
 R=1k C=1p
I1 (VO1 VO2 0) spectre_test_RCRC
+ R2=2.1k C2=1.2p R1=7.1k C1=2.1p
V0 (VI 0) vsource dc=1 \
 mag=1 type=dc
simulatorOptions options reltol=1e-3 vabstol=1e-6 iabstol=1e-12 temp=27 \
    tnom=27 scalem=1.0 scale=1.0 gmin=1e-12 rforce=1 maxnotes=5 maxwarns=5 \
    digits=5 cols=80 pivrel=1e-3 sensfile="../psf/sens.output"
    + checklimitdest=psf 
ac ac start=1 stop=1G dec=100 annotate=status 
modelParameter info what=models where=rawfile
element info what=inst where=rawfile
outputParameter info what=output where=rawfile
designParamVals info what=parameters where=rawfile
primitives info what=primitives where=rawfile
saveOptions options save=allpub
