// Generated for: spectre
// Generated on: May 15 15:28:49 2015
// Design library name: Playground
// Design cell name: spectre_allsims
// Design view name: schematic
simulator lang=spectre
global 0
parameters RL=50 fsin=1G R=1k
include "/home/rboesch/Python/py_spectre_tests/py_spectre/examples/HSpiceModels/130nm_bulk.pm"

// Library name: Playground
// Cell name: spectre_test_RC
// View name: schematic
subckt spectre_test_RC VI VO VSS
parameters _par0=1k C=1p
    R0 (VI VO) resistor r=_par0
    C0 (VO VSS) capacitor c=C
ends spectre_test_RC
// End of subcircuit definition.

// Library name: Playground
// Cell name: spectre_test_RCRC
// View name: schematic
subckt spectre_test_RCRC VI VO VSS
parameters R2 C2 R1 C1
    I3 (net7 VO VSS) spectre_test_RC _par0=R2 C=C2
    I0 (VI net7 VSS) spectre_test_RC _par0=R1 C=C1
ends spectre_test_RCRC
// End of subcircuit definition.

// Library name: Playground
// Cell name: spectre_allsims
// View name: schematic
I1 (VO1 VO2 0) spectre_test_RCRC R2=2*(R/2)+0 C2=1.2p R1=7.1k C1=2.1p
I0 (VI VO1 0) spectre_test_RC _par0=1k C=1p
R0 (VNOISE 0) resistor r=RL isnoisy=yes
V0 (VI 0) vsource mag=1 type=sine pacmag=1 ampl=1 freq=1G
PORT1 (VNOISE 0) port r=50 num=1 dc=1 type=sine freq=1G ampl=1 sinedc=0
M0 (VG VG 0 0) nmos w=1u l=180.00n
I10 (0 VG) isource dc=100u type=dc
simulatorOptions options reltol=1e-3 vabstol=1e-6 iabstol=1e-12 temp=27 \
    tnom=27 scalem=1.0 scale=1.0 gmin=1e-12 rforce=1 maxnotes=5 maxwarns=5 \
    digits=5 cols=80 pivrel=1e-3 sensfile="../psf/sens.output" \
    checklimitdest=psf 
tran tran stop=100n write="./psf/test0/spectre.ic" writefinal="./psf/test0/spectre.fc" \
    annotate=status maxiters=5 
finalTimeOP info what=oppoint where=rawfile
dcOp dc write="./psf/test0/spectre.dc" maxiters=150 maxsteps=10000 annotate=status
dcOpInfo info what=oppoint where=rawfile
dc dc param=RL start=1 stop=100 dec=11 oppoint=rawfile maxiters=150 \
    maxsteps=10000 annotate=status
ac ac start=1 stop=1T dec=92 values=[1k 1e4 1.1e5] annotate=status 
noise ( VNOISE gnd! ) noise freq=1 param=RL start=1 stop=5000 values=[10 \
    1000] iprobe=PORT1 annotate=status 
xf ( VO2 gnd! ) xf start=1 stop=1T annotate=status 
sens (VNOISE VO2) to (R0 I0.R0) for (dcOp dc )
modelParameter info what=models where=rawfile
element info what=inst where=rawfile
outputParameter info what=output where=rawfile
designParamVals info what=parameters where=rawfile
primitives info what=primitives where=rawfile
saveOptions options save=allpub
